US05736540
α-(Acetyloxy)-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide
To a solution of 0.30 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 5 ml of methylene chloride is added 0.15 g of triethylamine followed by 0.27 g of O -acetylmandelic acid chloride. The mixture is stirred at room temperature for 1 hour and then diluted with 50% NaHCO3. The methylene chloride is evaporated and the residue is extracted with ethyl acetate. The separated organic layer is washed with saturated NaHCO3 and brine and then dried with Na2SO4 followed by filtering through a pad of hydrous magnesium silicate. The filtrate is evaporated to a residue which is stirred with ether-hexane to give 0.54 g of beige solid. MS(CI): 480(M+H).

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.30 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
reactant | acetylmandelic acid chloride | C(C)(=O)C(C(=O)Cl)(O)C1=CC=CC=C1 | C10H9ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | α-(Acetyloxy)-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide | 0.54 g | C(C)(=O)OC(C(=O)NC1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C2=CC=CC=C2 | C29H25N3O4
